US05514691
3-Fluoro-N-(4-bromo-3-methyl-5-isoxazolyl) benzenesulfonamide was prepared from 5-amino-4-bromo-3-methylisoxazole and 3-fluorobenzenesulfonyl chloride according to the procedures described in Example 1b. The crude product was purified by recrystallization from ethyl acetate/hexanes to give a light yellow solid, m.p. 125°-128° C., yield 88%.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 3-fluorobenzenesulfonyl chloride | FC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO2S
product | 3-Fluoro-N-(4-bromo-3-methyl-5-isoxazolyl) benzenesulfonamide | yield 88% | FC=1C=C(C=CC1)S(=O)(=O)NC1=C(C(=NO1)C)Br | C10H8BrFN2O3S
